* Half-wave rectifier - SPICE Task 6 E2E test
* Vin -> D1 (diode) -> R1 (load) -> GND
* Node 2 is the rectified output
Vin 1 0 SIN(0 2 1k)
D1 1 2 dmod
R1 2 0 1k
.model dmod d is=1e-14 n=1.5
.tran 10u 10m
.end
