* NMOS resistor-load stage - SPICE Task 6 E2E test
* Vdd -> Rd -> out -> M1(drain) -> GND
* Vin drives the gate; node "out" is the drain (output)
* level=3 -> BSIM3v3 (maps to bsim3 OSDI master)
Vdd vdd 0 DC 3.3
Vin in 0 PULSE(0 2.0 1m 1u 1u 4m 10m)
M1 out in 0 0 nch w=10u l=0.35u
Rd vdd out 10k
.model nch nmos level=3
.tran 1u 10m
.end
