* SPICE subckt E2E test - Task 7
* RC divider block instantiated via X call with param override
* X1 overrides rval=2k (default 1k); cval stays at default 1u
.subckt rcblock in out gnd rval=1k cval=1u
R1 in out rval
C1 out gnd cval
.ends rcblock

Vin in 0 PULSE(0 5 0 1u 1u 4m 10m)
X1 in out1 0 rcblock rval=2k
.tran 1u 10m
.end
