simulator lang=spectre
parameters rext=2k
subckt rcblock (a b)
  parameters r=1k c=1u
  r1 (a b) res r=r
  c1 (b 0) cap c=c
ends rcblock
model res resistor
model cap capacitor
model vsrc vsource
// Port b is tied to ground (node 0), so c1 is degenerate (no RC time constant observable in waveform).
// The call-site overrides r=rext (to 2k) and c=3u are verified via instanceParameter, not a waveform.
x1 (1 0) rcblock r=rext c=3u
v1 (1 0) vsrc type="pulse" val0=0 val1=5 delay=1m rise=1u fall=1u width=4m
